US05753665
A mixture of 3-amino-1,2,4-triazole (11.74 g) and 1-chloro-1-penten-3-one (16.5 g) in acetic acid (225 ml) was heated under reflux for 45 minutes. The reaction mixture was cooled, poured onto ice and extracted with dichloromethane. The organic layer was dried and the solvent was evaporated under reduced pressure to give 7-ethyl-1,2,4-triazolo[1,5-a]pyrimidine. Yield 11.72 g.

reactant | 3-amino-1,2,4-triazole | 11.74 g | NC1=NNC=N1 | C2H4N4
reactant | 1-chloro-1-penten-3-one | 16.5 g | ClC=CC(CC)=O | C5H7ClO
solvent | acetic acid | 225 ml | C(C)(=O)O | C2H4O2
product | 7-ethyl-1,2,4-triazolo[1,5-a]pyrimidine | C(C)C1=CC=NC=2N1N=CN2 | C7H8N4
